US09062075B2
Synthesis of (E)-3,3-dimethyl-6-(3-oxo-3-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-1-en-1-yl)-3,4-dihydro-1,8-naphthyridin-2(1H)-one (Compound 25)
DIPEA (0.33 mL, 1.83 mmol) was added to a stirred solution of 2-((1,2,3,6-tetrahydro-pyridin-4-yl)methyl)thiazole hydrochloride (Intermediate-2) (158 mg, 0.73 mmol), (E)-3-(6,6-dimethyl-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid (Intermediate-22) (150 mg, 0.61 mmol), HOBt (98 mg, 0.73 mmol) and EDC.HCl (232 mg, 1.22 mmol) in dry DMF (2 mL) at 20-35° C. and the reaction mixture was allowed to stir at 20-35° C. for 16 h. Then the reaction mixture was poured into ice water (50 mL) and extracted with ethyl acetate (2×50 mL). The organic layer was washed with brine (50 mL), dried over anhydrous Na2SO4 and filtered. The filtrate was rotary evaporated under vacuum to get residue which was purified by column chromatography using mixture of 4% methanol/dichloromethane as an eluent to get the desired compound as an off-white solid (160 mg, 51%); 1H NMR (400 MHz, DMSO-d6) δ 10.61 (s, 1H), 8.36 (s, 1H), 8.08 (s, 1H), 7.71 (d, J=2.9 Hz, 1H), 7.61 (d, J=3.0 Hz, 1H), 7.45 (d, J=15.2 Hz, 1H), 7.30-7.14 (m, 1H), 5.68-5.65 (m, 1H), 4.28-4.20 (m, 1H), 4.08-4.02 (m, 1H), 3.80-3.72 (m, 3H), 3.68-3.60 (m, 1H), 2.79 (s, 2H), 2.18-2.04 (m, 2H), 1.08 (s, 6H); LC-MS: 409.2 (M+1)+.

reactant | DIPEA | 1.83 mmol, 0.33 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-((1,2,3,6-tetrahydro-pyridin-4-yl)methyl)thiazole hydrochloride | 0.73 mmol, 158 mg | Cl.N1CCC(=CC1)CC=1SC=CN1
reactant | (E)-3-(6,6-dimethyl-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid | 0.61 mmol, 150 mg | CC1(CC=2C=C(C=NC2NC1=O)/C=C/C(=O)O)C | C13H14N2O3
reactant | HOBt | 0.73 mmol, 98 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.22 mmol, 232 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (E)-3,3-dimethyl-6-(3-oxo-3-(4-(thiazol-2-ylmethyl)-5,6-dihydropyridin-1(2H)-yl)prop-1-en-1-yl)-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 160 mg, 51% | CC1(C(NC2=NC=C(C=C2C1)\C=C\C(N1CC=C(CC1)CC=1SC=CN1)=O)=O)C | C22H24N4O2S
